US07964607B2
(a) 5-amino-1-cyclobutyl-1H-pyrazole-4-carbonitrile
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile but substituting 1-cyclobutylhydrazine provided the title compound. 400 MHz 1H NMR (CDCl3) δ 7.50 (s, 1H), 4.48-4.40 (m, 1H), 4.23 (m, 2H), 2.70-2.58 (m, 2H), 2.48-2.35 (m, 2H), 1.97-1.79 (m, 2H). MS: (M+H m/z 163.1).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1)OC)C#N | C11H10N4O
reactant | 1-cyclobutylhydrazine | C1(CCC1)NN | C4H10N2
product | 5-amino-1-cyclobutyl-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1CCC1)C#N | C8H10N4
